US07691902B2
1-(Benzo[d][1,3]dioxol-5-yl)-N-(3-bromo-4-methylphenyl)cyclopropanecarboxamide (5.0 g, 13 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (4.1 g, 16 mmol), Pd(dppf)Cl2 (0.66 g, 0.81 mmol), and DMF (100 mL) were added to a flask containing oven-dried KOAc (3.9 g, 40 mmol). The mixture was heated at 80° C. for 2 h (˜40% conversion). The mixture was cooled to ambient temperature and the volatiles were removed under vacuum. The residue was taken up in CH2Cl2, filtered, and loaded onto a SiO2 column (750 g of SiO2). The product was eluted with EtOAc/Hexanes (0-25%, 70 min, 250 mL/min) to provide 1-(benzo[d][1,3]dioxol-5-yl)-N-(4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)cyclopropanecarboxamide (1.5 g, 27%) and unreacted starting material: 1-(benzo[d][1,3]dioxol-5-yl)-N-(3-bromo-4-methylphenyl)cyclopropanecarboxamide (3.0 g).

reactant | 1-(Benzo[d][1,3]dioxol-5-yl)-N-(3-bromo-4-methylphenyl)cyclopropanecarboxamide | 13 mmol, 5.0 g | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC2=CC(=C(C=C2)C)Br | C18H16BrNO3
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 16 mmol, 4.1 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | KOAc | 40 mmol, 3.9 g | CC(=O)[O-].[K+]
catalyst | Pd(dppf)Cl2 | 0.81 mmol, 0.66 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 1-(benzo[d][1,3]dioxol-5-yl)-N-(4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)cyclopropanecarboxamide | 1.5 g, 27% | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC2=CC(=C(C=C2)C)B2OC(C(O2)(C)C)(C)C | C24H28BNO5
